US05681954
3-Chloromethyl-5,6-dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole
In 1700 ml of dichloromethane was suspended 180.0 g of 5,6-dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole-3-methanol, having been ground to powder in a mortar, at room temperature, followed by stirring while cooling with ice. To the reaction mixture was added dropwise 48.6 ml of thionyl chloride over 5 minutes. One minute later, the spot of the starting material on a thin layer chromatogram (chloroform:ethanol=30:1) disappeared. The reaction mixture was poured into 2000 ml of a saturated sodium hydrogencarbonate aqueous solution and extracted with 5000 ml of chloroform. The extract was dried over sodium sulfate, filtered, and the solvent was evaporated to yield 165.1 g of a colorless solid. This solid was used in the subsequent reaction without further purification.

reactant | 5,6-dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole-3-methanol | 180.0 g | COC=1C=C2C(=NN(C2=CC1OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C33H30N4O3
reactant | thionyl chloride | 48.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydrogencarbonate | 2000 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1700 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 3-Chloromethyl-5,6-dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole | 165.1 g | ClCC1=NN(C2=CC(=C(C=C12)OC)OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H29ClN4O2
